US07700786B2
Potassium carbonate (1.66 g, 12 mmol) was added to a solution of 3-hydroxy-5-methylpyrazole (2.45 g, 25.0 mmol) and 3-chloro-4,5-difluorobenzotrifluoride (2.5 g, 25.0 mmol) in DMF (40 ml), and the mixture was stirred under heating at 70° C. for 4 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (100 ml) and extracted with ethyl acetate (50 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a white solid of 3-(2-chloro-6-fluoro-4-trifluoromethylphenyloxy)-5-methylpyrazole (2.29 g, yield: 33.8%). mp: 171-174° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.27 (s, 3H), 5.71 (s, 1H), 7.37 (dd, JHF=1.8 and 9.4 Hz, 1H), 7.54 (s, 1H), 8.85-9.55 (br s, 1H).

reactant | Potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-5-methylpyrazole | 25.0 mmol, 2.45 g | OC1=NNC(=C1)C | C4H6N2O
reactant | 3-chloro-4,5-difluorobenzotrifluoride | 25.0 mmol, 2.5 g | ClC=1C=C(C=C(C1F)F)C(F)(F)F | C7H2ClF5
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-(2-chloro-6-fluoro-4-trifluoromethylphenyloxy)-5-methylpyrazole | 2.29 g, yield: 33.8% | ClC1=C(C(=CC(=C1)C(F)(F)F)F)OC1=NNC(=C1)C | C11H7ClF4N2O
